US07038077B2
(1S,2S,5R,6S)-2-Amino-2-(3′-chlorobenzyloxycarbonyl)-bicyclo[3.1.0]hexane-6-carboxylic acid
(1S,2S,5R,6S)-2-Allyloxycarbonylamino-2-(3′-chloro-benzyloxycarbonyl)-bicyclo[3.1.0]hexane-6-carboxylic acid (708 mg, 1.8 mmol) was reacted with dimethylbarbituric acid (421 mg, 2.7 mmol) and tetrakis triphenylphosphine palladium (0) (42 mg; 0.02 mmol) under general procedure 4. The title compound was obtained as a white solid (385 mg, 62% yield).

reactant | (1S,2S,5R,6S)-2-Allyloxycarbonylamino-2-(3′-chloro-benzyloxycarbonyl)-bicyclo[3.1.0]hexane-6-carboxylic acid | 1.8 mmol, 708 mg | C(C=C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2CC1)C(=O)O)C(=O)OCC1=CC(=CC=C1)Cl | C19H20ClNO6
reactant | dimethylbarbituric acid | 2.7 mmol, 421 mg | CC1(C(NC(NC1=O)=O)=O)C | C6H8N2O3
product | (1S,2S,5R,6S)-2-Amino-2-(3′-chlorobenzyloxycarbonyl)-bicyclo[3.1.0]hexane-6-carboxylic acid | N[C@@]1([C@@H]2[C@H]([C@@H]2CC1)C(=O)O)C(=O)OCC1=CC(=CC=C1)Cl | C15H16ClNO4
